US05556864
30(a) 2-[2-(3-Methyl -4-phenylbutyl)phenoxymethyl]oxirane
Following a procedure similar to that described in Example 1(a), 0.98 g of 2-(3-methyl-4-phenylbutyl)phenol (prepared as described in Preparation 13), 0.46 of potassium t-butoxide and 0.56 g of epibromohydrin were reacted in 10 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified as described in Example 1(a), to give 1.0 g (yield 83%) of the title compound as a colorless oil.

reactant | 2-(3-methyl-4-phenylbutyl)phenol | 0.98 g | CC(CCC1=C(C=CC=C1)O)CC1=CC=CC=C1 | C17H20O
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | epibromohydrin | 0.56 g | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 2-[2-(3-Methyl -4-phenylbutyl)phenoxymethyl]oxirane | 1.0 g, yield 83% | CC(CCC1=C(OCC2OC2)C=CC=C1)CC1=CC=CC=C1 | C20H24O2
